US05354864
The contacting in step (a) comprises the condensation of 9-chloroacridine and 3,5-diaminobenzyl alcohol to form 3-(9-acridinylamino)-5-hydroxymethylaniline.

reactant | 9-chloroacridine | ClC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H8ClN
reactant | 3,5-diaminobenzyl alcohol | NC=1C=C(CO)C=C(C1)N | C7H10N2O
product | 3-(9-acridinylamino)-5-hydroxymethylaniline | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(N)C=C(C1)CO | C20H17N3O
